x15 (4 4 0 0 ) nmos        
x12 (9 4 0 0 ) nmos        
x13 (7 9 14 vdd! ) pmos    
x14 (14 7 vdd! vdd! ) pmos 
R1 (7 9) resistor 
x1 (5 vip 3 0 ) nmos       
x2 (6 vin 3 0 ) nmos       
x3 (3 4 0 0 ) nmos         
x4 (5 7 vdd! vdd! ) pmos   
x5 (6 7 vdd! vdd! ) pmos   
x6 (8 9 5 vdd! ) pmos      
x7 (out 9 6 vdd! ) pmos    
R2 (8 11) resistor 
x8 (11 8 12 0 ) nmos       
x9 (out 8 13 0 ) nmos      
x10 (12 11 0 0 ) nmos      
x11 (13 11 0 0 ) nmos      