Mp1 (node1 node1 vdd! vdd!) pmos
Mp2 (out1 node1 vdd! vdd!) pmos
Mn1 (node1 vip node2 0) nmos    
Mn2 (out1 vin node2 0) nmos        
Mnb (vb vb 0 0) nmos               
Mnc (node2 vb 0 0) nmos            
Mpo (out out1 vdd! vdd!) nmos     
Mno (out vb 0 0) nmos            
cc (out outm) capacitor  
rz (outm out1) resistor  