xnb (vb vb 0 0) nmos       

xn5 (3 vb 0 0) nmos        
xn1 (1 vip 3 0) nmos       
xn2 (2 vin 3 0) nmos       
xp3 (1 1 vdd! vdd!) pmos   
xp4 (2 2 vdd! vdd!) pmos   
xp6 (2 1 vdd! vdd!) pmos   
xp7 (1 2 vdd! vdd!) pmos   

xp8 (out 2 vdd! vdd!) pmos 
xp9 (4 1 vdd! vdd!) pmos   
xn10 (4 4 0 0) nmos        
xn11 (out 4 0 0) nmos